US08304446B2
1,1-Dimethylethyl 3-amino-4-cyano-1H-indazole-1-carboxylate
Di-tert-butyl dicarbonate (7.13 g, 32.7 mmol) in dichloromethane (150 mL) was added to a solution of 3-amino-1H-indazole-4-carbonitrile (for a preparation see Intermediate 62) (4.7 g, 29.7 mmol), 4-dimethylaminopyridine (0.726 g, 5.94 mmol) and triethylamine (8.28 mL, 59.4 mmol) in acetonitrile (150 mL) and stirred for 0.5 h under nitrogen. LCMS showed no starting material remaining so the reaction mixture was concentrated in vacuo to give a residue which was partitioned between DCM (250 mL) and water (250 mL). The organic layer was washed a further two times with water (250 mL) and once with brine (200 mL) before being dried over anhydrous magnesium sulfate and evaporated in vacuo to give the title compound (4.3 g, 56%) as a yellow solid. LCMS (System A): RT=0.94 min, ES+ve m/z 259 (M+H)+.

reactant | Di-tert-butyl dicarbonate | 32.7 mmol, 7.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-amino-1H-indazole-4-carbonitrile | NC1=NNC=2C=CC=C(C12)C#N | C8H6N4
reactant | triethylamine | 59.4 mmol, 8.28 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 150 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.94 mmol, 0.726 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1,1-Dimethylethyl 3-amino-4-cyano-1H-indazole-1-carboxylate | 4.3 g, 56% | NC1=NN(C2=CC=CC(=C12)C#N)C(=O)OC(C)(C)C | C13H14N4O2
